US08748599B2
2,2,2-Trichloroethyl triflate
A mixture of 2,2,2-trichloroethanol (7.5 g; 0.05 mole) and triflic anhydride (14.1 g; 0.05 mole) was heated at 80° C. for 60 minutes.

reactant | 2,2,2-trichloroethanol | 0.05 mole, 7.5 g | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | triflic anhydride | 0.05 mole, 14.1 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | 2,2,2-Trichloroethyl triflate | O(S(=O)(=O)C(F)(F)F)CC(Cl)(Cl)Cl | C3H2Cl3F3O3S
